US04294986
Preparation of 3-chloro-4-(phenethyloxy)phenyl isocyanate
A mixture of 3-chloro-4-(phenethyloxy)aniline (16.06 g; 0.0648 mol), toluene (500 ml) and potassium carbonate (4.5 g; 0.035 mol) is prepared and maintained under nitrogen atmosphere. A. 12.5% solution of phosgene in benzene (65 ml; 0.072 mol) is added to the above mixture. A precipitate forms immediately. The mixture is heated at 85° C. for 45 minutes. By the end of this period the precipitate has dissolved. The reaction mixture is cooled down and filtered. The product is not isolated but rather it is used immediately.

reactant | 3-chloro-4-(phenethyloxy)aniline | 0.0648 mol, 16.06 g | ClC=1C=C(N)C=CC1OCCC1=CC=CC=C1 | C14H14ClNO
reactant | potassium carbonate | 0.035 mol, 4.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | benzene | 0.072 mol, 65 ml | C1=CC=CC=C1 | C6H6
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 3-chloro-4-(phenethyloxy)phenyl isocyanate | ClC=1C=C(C=CC1OCCC1=CC=CC=C1)N=C=O | C15H12ClNO2
